US04042694
5,5-Dimethyl-10-[4-(pyrrolidino)butyryloxy]-2-phenethyl-8-(2-tetradecyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride
5,5-Dimethyl-10-hydroxy-2-phenethyl-8-(2-tetradecyl)-1,2,3,4-tetrahydro-5H-[ 1]benzopyrano[3,4-d]pyridine, γ-pyrrolidinobutyric acid hydrochloride and dicyclohexylcarbodiimide are reacted in equimolar amounts according to Example 1 to produce the desired product.

reactant | 5,5-Dimethyl-10-hydroxy-2-phenethyl-8-(2-tetradecyl)-1,2,3,4-tetrahydro-5H-[ 1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCC)O)C2=C1CCN(C2)CCC2=CC=CC=C2)C | C36H53NO2
reactant | γ-pyrrolidinobutyric acid hydrochloride | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-10-[4-(pyrrolidino)butyryloxy]-2-phenethyl-8-(2-tetradecyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCC)OC(CCCN2CCCC2)=O)C2=C1CCN(C2)CCC2=CC=CC=C2)C | InChI=1S/C44H66N2O3.ClH/c1-5-6-7-8-9-10-11-12-13-15-21-35(2)37-32-40(48-42(47)24-20-29-45-27-18-19-28-45)43-38-34-46(30-25-36-22-16-14-17-23-36)31-26-39(38)44(3,4)49-41(43)33-37;/h14,16-17,22-23,32-33,35H,5-13,15,18-21,24-31,34H2,1-4H3;1H
